US05116530
Step ii) Production of 2-dodecylthiophene
In a 5 liter-five-necked flask, 266 g (1.0 mol) of 2-hexanoylthiophene, 392.4 ml of 60% hydrazine hydrate and 3 liter of diethyleneglycol were placed and reacted for 6 hours at 195° C. with distilling-off of excessive water and hydrazine hydrate. The mixture was cooled to 50° C. and 210.6 g of KOH was added thereto, followed by heating again to react for 2.5 hours at 155° C. After the reaction, the reaction mixture was poured into 10 liter of water, extracted two times with 2 liter of isopropyl ether, followed by drying with CaCl2 and distilling-off of the solvent to obtain 229 g of a crude product. The crude product was subjected to reduced-pressure distillation in an atmosphere of nitrogen to obtain 168 g of a pure product (yield: 66.7 b.p.: 121.5° C./0.7 mmHg

reactant | 2-hexanoylthiophene | 1.0 mol, 266 g | C(CCCCC)(=O)C=1SC=CC1 | C10H14OS
reactant | hydrazine hydrate | 392.4 ml | O.NN
reactant | diethyleneglycol | 3 liter | C(COCCO)O | C4H10O3
reactant | KOH | 210.6 g | [OH-].[K+]
solvent | water | 10 liter | O | H2O
product | 2-dodecylthiophene | 168 g | C(CCCCCCCCCCC)C=1SC=CC1 | C16H28S
